US06884868B1
A mixture of 1-acetyl-4-[4-(6-methoxyhexyloxy)phenyl]piperazine (4.87 g) and 6N-hydrochloric acid (50 ml) was heated at 75° C. for 3 hours. After cooling, the solution was adjusted to pH 11 with 25% sodium hydroxide aqueous solution then the resulting precipitate was collected by filtration, washed with water and dried under reduced pressure to give 4-[4-(6-methoxyhexyloxy)phenyl]piperazine (3.77 g) as a pale brown solid.

reactant | 1-acetyl-4-[4-(6-methoxyhexyloxy)phenyl]piperazine | 4.87 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)OCCCCCCOC | C19H30N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 4-[4-(6-methoxyhexyloxy)phenyl]piperazine | 3.77 g | COCCCCCCOC1=CC=C(C=C1)N1CCNCC1 | C17H28N2O2
